US04810713
1-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-phenyl]ethanone compound with 2propanol [1:1]
Following the procedure of Example 1, [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol and 1-[4-(3-chloropropoxy)phenyl]ethanone were reacted using potassium iodide catalyst to give the free base of the title compound which when recrystallized from isopropyl alcohol gave the white title compound in 71% yield, m.p. 72°-84° C.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 1-[4-(3-chloropropoxy)phenyl]ethanone | ClCCCOC1=CC=C(C=C1)C(C)=O | C11H13ClO2
catalyst | potassium iodide | [I-].[K+]
product | 1-[4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]-phenyl]ethanone compound with 2propanol | 71% yield | CC(C)O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C=C1)C(C)=O)(O)C1=CC=C(C=C1)F | InChI=1S/C29H31F2NO3.C3H8O/c1-21(33)22-3-13-28(14-4-22)35-20-2-17-32-18-15-25(16-19-32)29(34,23-5-9-26(30)10-6-23)24-7-11-27(31)12-8-24;1-3(2)4/h3-14,25,34H,2,15-20H2,1H3;3-4H,1-2H3
